US09238640B2
To a suspension of 5,7-difluoro-2-(2-methyl-pyridin-4-yl)-3H-quinazolin-4-one (0.30 g, 1.09 mmol) in anhydrous DMF (8 mL) was added a solution of sodium methoxide in methanol (25 wt %, 0.59 g, 10.9 mmol) and the reaction mixture was stirred at room temperature for 3 hours. Water was added, the mixture was acidified to pH approximately 5 with acetic acid, and the precipitated solid was filtered and dried under vacuum to give 7-fluoro-5-methoxy-2-(2-methyl-pyridin-4-yl)-3H-quinazolin-4-one as a light yellow solid. Yield: 0.24 g (76%).

reactant | 5,7-difluoro-2-(2-methyl-pyridin-4-yl)-3H-quinazolin-4-one | 1.09 mmol, 0.30 g | FC1=C2C(NC(=NC2=CC(=C1)F)C1=CC(=NC=C1)C)=O | C14H9F2N3O
reactant | sodium methoxide | C[O-].[Na+]
reactant | methanol | 10.9 mmol, 0.59 g | CO | CH4O
reactant | Water | O | H2O
solvent | DMF | 8 mL | CN(C)C=O | C3H7NO
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 7-fluoro-5-methoxy-2-(2-methyl-pyridin-4-yl)-3H-quinazolin-4-one | FC1=CC(=C2C(NC(=NC2=C1)C1=CC(=NC=C1)C)=O)OC | C15H12FN3O2
